US06307051B1
6-{3-[4-(4-fluorobenzamido)piperidinomethyl]phenylmethoxy}-2-cinnamylidenecoumaran-3-one
A mixture of 520 mg 6-(3-chloromethyl-phenylmethoxy)-2-cinnamylidenecoumaran-3-one (preparation 6), 150 mg sodium hydrogencarbonate, 330 mg 4-(4-fluorobenzamido)piperidine and 15 ml dimethylformamide is warmed to 60° C. for 3 hours, then evaporated, mixed with water and extracted with ethyl acetate. After evaporation of the extract, the residue is purified by silica gel chromatography (eluent ethyl acetate) to give 500 mg (65%) of the desired compound, m.p. 126-128° C.

reactant | 6-(3-chloromethyl-phenylmethoxy)-2-cinnamylidenecoumaran-3-one | 520 mg | ClCC=1C=C(C=CC1)COC1=CC=C2C(C(OC2=C1)=CC=CC1=CC=CC=C1)=O | C25H19ClO3
reactant | sodium hydrogencarbonate | 150 mg | C(O)([O-])=O.[Na+]
reactant | 4-(4-fluorobenzamido)piperidine | 330 mg | FC1=CC=C(C(=O)NC2CCNCC2)C=C1 | C12H15FN2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-{3-[4-(4-fluorobenzamido)piperidinomethyl]phenylmethoxy}-2-cinnamylidenecoumaran-3-one | 500 mg, 65% | FC1=CC=C(C(=O)NC2CCN(CC2)CC=2C=C(C=CC2)COC2=CC=C3C(C(OC3=C2)=CC=CC2=CC=CC=C2)=O)C=C1 | C37H33FN2O4
